US05032137
Preparation of 4-[β-(methylthio)ethylamino]aniline
0.8 g of ammonium chloride and 20 g of powdered zinc are added to 44 ml of aqueous-alcoholic solution (10% of water, 90% of alcohol). This mixture is brought to reflux with stirring, and 0.04 mole (8.5 g) of 4-nitro-N-[[β-(methylthio)ethyl]aniline is added, the addition being regulated so as to maintain the reflux without heating. The decolorized reaction medium is filtered while boiling into a flask containing 8.5 ml of strength hydrochloric acid. The expected product precipitates in the form of a dihydrochloride. It is dried under vacuum at 55° C.

reactant | ammonium chloride | 0.8 g | [Cl-].[NH4+]
reactant | [β-(methylthio)ethyl]aniline | CSCCNC1=CC=CC=C1 | C9H13NS
catalyst | zinc | 20 g | [Zn] | Zn
product | 4-[β-(methylthio)ethylamino]aniline | CSCCNC1=CC=C(N)C=C1 | C9H14N2S
